US08470841B2
3c. 2-(4-Benzyloxyphenoxy)propane-1,3-diol
Diisobutylaluminum hydride (7.08 ml) was slowly added dropwise to dimethyl 2-(4-benzyloxyphenoxy)malonate (477 mg, 1.44 mmol) in 16 ml of toluene under argon at 0° C. The reaction mixture was stirred at 0° C. for 2 h and, after addition of 1M hydrochloric acid solution, extracted with ethyl acetate. The organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 98.6 mg (25%), M+H+: 275.20.

reactant | Diisobutylaluminum hydride | 7.08 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | dimethyl 2-(4-benzyloxyphenoxy)malonate | 1.44 mmol, 477 mg | C(C1=CC=CC=C1)OC1=CC=C(OC(C(=O)OC)C(=O)OC)C=C1 | C18H18O6
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Benzyloxyphenoxy)propane-1,3-diol | C(C1=CC=CC=C1)OC1=CC=C(OC(CO)CO)C=C1 | C16H18O4
